US05576322
2-Chloro-4-(3-chloro-4-methoxybenzyl)amino-6-cyanoquinazoline
3.9 g of 3-chloro-4-methoxybenzylamine, 3.97 g of triethylamine and 200 ml of 2-propanol were added to 4 g of 2,4-dichloro-6-cyanoquinazoline. The obtained mixture was refluxed for 30 minutes, cooled to room temperature and filtered to recover a crystalline precipitate. The precipitate was washed with water and chloroform successively to give 5.563 g of the title compound.

reactant | 3-chloro-4-methoxybenzylamine | 3.9 g | ClC=1C=C(CN)C=CC1OC | C8H10ClNO
reactant | triethylamine | 3.97 g | C(C)N(CC)CC | C6H15N
reactant | 2,4-dichloro-6-cyanoquinazoline | 4 g | ClC1=NC2=CC=C(C=C2C(=N1)Cl)C#N | C9H3Cl2N3
solvent | 2-propanol | 200 ml | CC(C)O | C3H8O
product | 2-Chloro-4-(3-chloro-4-methoxybenzyl)amino-6-cyanoquinazoline | 5.563 g | ClC1=NC2=CC=C(C=C2C(=N1)NCC1=CC(=C(C=C1)OC)Cl)C#N | C17H12Cl2N4O
